US09120822B2
A solution of piperidin-4-yl-carbamic acid tert-butyl ester (2.45 g, 12.22 mmol, 2.0 eq), 6-methoxy-4H-1-thia-9-aza-phenanthren-3-one (1.50 g, 6.11 mmol, 1.0 eq) and p-toluenesulfonic acid (526 mg, 3.06 mmol, 0.5 eq) in toluene (50 mL) is heated at 120° C. for 2 hours. The resulting solution is cooled down to room temperature, solvent is removed and the crude is dissolved in dichloromethane (100 mL) and methanol (100 mL) before the addition of acetic acid (0.5 mL, 8.66 mmol, 1.4 eq) and sodium cyanoborohydride (1.24 g, 19.73 mmol, 3.2 eq). After 1 h 30 stirring at room temperature, the reaction mixture is extracted with dichloromethane (3×50 mL) and a saturated sodium hydrogen carbonate aqueous solution (50 mL). The combined organic layers are dried over sodium sulfate, filtered and concentrated to give a residue that is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate:ammonia-7N solution in methanol, 1:1:0.05, v/v/v) to afford [1-(6-methoxy-3,4-dihydro-2H-1-thia-9-aza-phenanthrene-3-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester as a light yellow solid (746 mg, 28% yield).

reactant | piperidin-4-yl-carbamic acid tert-butyl ester | 12.22 mmol, 2.45 g, 2.0 eq | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | 6-methoxy-4H-1-thia-9-aza-phenanthren-3-one | 6.11 mmol, 1.50 g, 1.0 eq | COC=1C=C2C=3CC(CSC3C=NC2=CC1)=O | C13H11NO2S
reactant | p-toluenesulfonic acid | 3.06 mmol, 526 mg, 0.5 eq | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetic acid | 8.66 mmol, 0.5 mL, 1.4 eq | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 19.73 mmol, 1.24 g, 3.2 eq | C(#N)[BH3-].[Na+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 100 mL | CO | CH4O
product | [1-(6-methoxy-3,4-dihydro-2H-1-thia-9-aza-phenanthrene-3-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 746 mg, 28% yield | C(C)(C)(C)OC(NC1CCN(CC1)C1CSC=2C=NC3=CC=C(C=C3C2C1)OC)=O | C23H31N3O3S
